### PR TITLE
Verify the FlipNegatedBinop pass

### PR DESCRIPTION
**Pull request by sonmarcho**
Verify the `FlipNegatedBinop` pass, assuming the reflexivity lemma for `EqValue` (the equivalence relation over values).

### CODE REVIEW

File: Source/DafnyCompilers/CompilerCommon.dfy [hunk 1]
```diff
@@ -74,7 +131,7 @@ module {:extern "DafnyInDafny.Common"} DafnyCompilerCommon {
         ProperMultiSubset | ProperMultiSuperset | MultisetDisjoint | InMultiset |
         NotInMultiset | MultisetUnion | MultisetIntersection | MultisetDifference |
         MultisetSelect // Separate node in DafnyAST.cs
-      datatype Maps =
+      datatype Maps = // TODO: MapSubtraction -> MapSubstraction? (with an "s"?)
```
Comment (cpitclaudel) [inline Source/DafnyCompilers/CompilerCommon.dfy:134]: Not AFAIK, see https://english.stackexchange.com/questions/3640/is-substract-versus-subtract-a-proper-word

File: Source/DafnyCompilers/CompilerCommon.dfy [hunk 2]
```diff
@@ -901,9 +914,22 @@ module {:extern "DafnyInDafny.Common"} DafnyCompilerCommon {
           }
         }
 
-        lemma AllExprTrue(e: Expr)
-          ensures All_Expr(e, _ => true)
-        {}
+        // TODO: this is duplicated in the rec and non-rec modules
+        function IsTrue(e:Expr): bool { true }
```
Comment (cpitclaudel) [inline Source/DafnyCompilers/CompilerCommon.dfy:918]: Can you move it to the base module?

File: Source/DafnyCompilers/CompilerCommon.dfy [hunk 3]
```diff
@@ -962,272 +1005,6 @@ module {:extern "DafnyInDafny.Common"} DafnyCompilerCommon {
     // Both implementations of Deep should work, but NonRec can be somewhat
     // simpler to work with.  If needed, use ``DeepImpl.Equiv.All_Expr`` to
     // switch between implementations.
-    module Deep refines DeepImpl.Rec {}
-  }
-
-  module Rewriter {
```
Comment (cpitclaudel) [inline Source/DafnyCompilers/CompilerCommon.dfy:968]: Can we avoid splitting files in this PR?  I'd like to preserve the history, and this requires an explicit merge commit when the move is done.

File: Source/DafnyCompilers/CompilerRewriter.dfy [hunk 4]
```diff
@@ -0,0 +1,2215 @@
...
+          && eq_ctx(ctx, ctx')
+          && eq_value(v, v')
+        case (Failure(_), Failure(_)) =>
+          true
+        case _ =>
+          false
+      }
+    }
+
+    function method {:opaque} {:verify true} InterpCallFunctionBody(fn: WV, fuel: nat, argvs: seq<WV>)
```
Comment (cpitclaudel) [inline Source/DafnyCompilers/CompilerRewriter.dfy:398]: Let's remove the `:verify` tags

File: Source/DafnyCompilers/CompilerRewriter.dfy [hunk 5]
```diff
@@ -0,0 +1,2215 @@
...
+    import opened Rewriter.BottomUp
+
+    import opened DCC.Predicates
+    import opened Transformer
+    import opened Interp
+    import opened Values
+
+    // TODO: use more
+    datatype Equivs =
+      EQ(eq_value: (WV, WV) -> bool, eq_state: (State, State) -> bool)
```
Comment (cpitclaudel) [inline Source/DafnyCompilers/CompilerRewriter.dfy:358]: Oh no, a typeclass 😱 ^^

File: Source/DafnyCompilers/CompilerRewriter.dfy [hunk 6]
```diff
@@ -0,0 +1,2215 @@
...
+      && (forall x | x in ctx.Keys :: eq_value(ctx[x], ctx'[x])) 
+    }
+
+    predicate {:verify true} GEqState(
+      eq_value: (WV,WV) -> bool, ctx: State, ctx': State)
+    {
+      GEqCtx(eq_value, ctx.locals, ctx'.locals)
+    }
+
+    function {:verify true} Mk_EqState(eq_value: (WV,WV) -> bool): (State,State) -> bool
```
Comment (cpitclaudel) [inline Source/DafnyCompilers/CompilerRewriter.dfy:376]: Can we make this a member function in `Equivs`?

File: Source/DafnyCompilers/CompilerRewriter.dfy [hunk 7]
```diff
@@ -0,0 +1,2215 @@
...
+    }
+
+    predicate {:verify true} GEqInterpResult<T(0)>(
+      eq_ctx: (State,State) -> bool, eq_value: (T,T) -> bool, res: InterpResult<T>, res': InterpResult<T>)
+    // Interpretation results are equivalent.
+    // "G" stands for "generic".
+    // TODO: be a bit more precise in the error case, especially in case of "out of fuel".
+    {
+      match (res, res') {
+        case (Success(Return(v,ctx)), Success(Return(v',ctx'))) =>
```
Comment (cpitclaudel) [inline Source/DafnyCompilers/CompilerRewriter.dfy:388]:
```suggestion
        case (Success(Return(v, ctx)), Success(Return(v', ctx'))) =>
```

File: Source/DafnyCompilers/CompilerRewriter.dfy [hunk 8]
```diff
@@ -0,0 +1,2215 @@
...
+          && eq_ctx(ctx, ctx')
+          && eq_value(v, v')
```
Comment (cpitclaudel) [inline Source/DafnyCompilers/CompilerRewriter.dfy:390]: Can we make this a member function in Equivs? (Or in fact two member functions: one for `Result` and one for `Return`)

File: Source/DafnyCompilers/CompilerRewriter.dfy (hunk 4 above)
Comment (cpitclaudel) [inline Source/DafnyCompilers/CompilerRewriter.dfy:398]: Should this method be in `Interp.dfy`?

File: Source/DafnyCompilers/CompilerRewriter.dfy [hunk 9]
```diff
@@ -0,0 +1,2215 @@
...
+        case _ =>
+          false
+      }
+    }
+
+    function method {:opaque} {:verify true} InterpCallFunctionBody(fn: WV, fuel: nat, argvs: seq<WV>)
+      : (r: PureInterpResult<WV>)
+      requires fn.Closure?
+      requires |fn.vars| == |argvs|
+    // Small utility, very similar to ``InterpFunctionCall``, which we use to factorize
```
Comment (cpitclaudel) [inline Source/DafnyCompilers/CompilerRewriter.dfy:402]: I don't think `factorize` is used outside of arithmetic

File: Source/DafnyCompilers/CompilerRewriter.dfy [hunk 10]
```diff
@@ -0,0 +1,2215 @@
...
+    predicate {:verify true} EqValue(v: WV, v': WV)
+      decreases ValueTypeHeight(v) + ValueTypeHeight(v'), 1
+    // Equivalence between values.
+    // 
+    // Two values are equivalent if:
+    // - they are not closures and are equal/have equivalent children values
+    // - they are closures and, when applied to equivalent inputs, they return equivalent outputs
+    //
+    // Rk.: we could write the predicate in a simpler manner by using `==` in case the values are not
+    // closures, but we prepare the terrain for a more general handling of collections.
```
Comment (cpitclaudel) [inline Source/DafnyCompilers/CompilerRewriter.dfy:421]:
```suggestion
    // .. note:: We could write the predicate in a simpler manner by using `==` when the values are not
    //    closures, but we prepare for a more general handling of collections.
```

Not sure about this one.  Which syntax do we want to use in docstrings?

File: Source/DafnyCompilers/CompilerRewriter.dfy [hunk 11]
```diff
@@ -0,0 +1,2215 @@
...
+    //
+    // Rk.: for now, we assume the termination. This function terminates because the size of the
```
Comment (cpitclaudel) [inline Source/DafnyCompilers/CompilerRewriter.dfy:423]:
```suggestion
    // Rk.: for now, we assume termination. This function terminates because the size of the
```

File: Source/DafnyCompilers/CompilerRewriter.dfy [hunk 12]
```diff
@@ -0,0 +1,2215 @@
...
+    // type of the values decreases, the interesting case being the closures (see ``EqValue_Closure``).
```
Comment (cpitclaudel) [inline Source/DafnyCompilers/CompilerRewriter.dfy:424]:
```suggestion
    // type of the values decreases, the interesting case being closures (see ``EqValue_Closure``).
```

File: Source/DafnyCompilers/CompilerRewriter.dfy [hunk 13]
```diff
@@ -0,0 +1,2215 @@
...
+    // Whenever we find a closure `fn_ty = (ty_0, ..., ty_n) -> ret_ty`, we need to call ``EqValue``
+    // on valid inputs (with types `ty_i < fn_ty`) and on its output (with type `ret_ty < fn_ty`).
+    //
+    // Rk.: I initially wanted to make the definition opaque to prevent context saturation, because
+    // in most situations we don't need to know the content of EqValue.
```
Comment (cpitclaudel) [inline Source/DafnyCompilers/CompilerRewriter.dfy:429]:
```suggestion
    // in most situations we don't need to know the content of ``EqValue``.
```

File: Source/DafnyCompilers/CompilerRewriter.dfy [hunk 14]
```diff
@@ -0,0 +1,2215 @@
...
+    // However it made me run into the following issue:
+    // BUG(https://github.com/dafny-lang/dafny/issues/2260)
+    // As ``EqValue`` appears a lot in foralls, using the `reveal` trick seemed too cumbersome
```
Comment (cpitclaudel) [inline Source/DafnyCompilers/CompilerRewriter.dfy:432]:
```suggestion
    // As ``EqValue`` appears a lot in foralls, using the ``reveal`` trick seemed too cumbersome
```

File: Source/DafnyCompilers/CompilerRewriter.dfy [hunk 15]
```diff
@@ -0,0 +1,2215 @@
...
+        case (Map(m), Map(m')) =>
+          ValueTypeHeight_Children_Lem(v); // For termination
+          ValueTypeHeight_Children_Lem(v'); // For termination
+          && m.Keys == m'.Keys
+          && |m| == |m'| // We *do* need this
+          && (forall x | x in m :: EqValue(m[x], m'[x]))
+        case (Multiset(ms), Multiset(ms')) =>
+          ms == ms'
+        case (Seq(sq), Seq(sq')) =>
+          ValueTypeHeight_Children_Lem(v); // For termination
```
Comment (cpitclaudel) [inline Source/DafnyCompilers/CompilerRewriter.dfy:453]: In general lemmas in Dafny are called `LemmaXYZ` (not a fan, but https://github.com/dafny-lang/libraries/blob/master/STYLE.md)

File: Source/DafnyCompilers/CompilerRewriter.dfy [hunk 16]
```diff
@@ -0,0 +1,2215 @@
...
+    //
+    // Rk.: contrary to ``EqValue``, it seems ok to make ``EqValue_Closure`` opaque.
+    {
+      var Closure(ctx, vars, body) := v;
+      var Closure(ctx', vars', body') := v';
+      && |vars| == |vars'|
+      && (
+      forall fuel:nat, argvs: seq<WV>, argvs': seq<WV> |
+        && |argvs| == |argvs'| == |vars| // no partial applications are allowed in Dafny
+        // We need the argument types to be smaller than the closure types, to prove termination.\
```
Comment (cpitclaudel) [inline Source/DafnyCompilers/CompilerRewriter.dfy:493]:
```suggestion
        // We need the argument types to be smaller than the closure types, to prove termination.
```

File: Source/DafnyCompilers/CompilerRewriter.dfy [hunk 17]
```diff
@@ -0,0 +1,2215 @@
...
+        // In effect, the arguments types should be given by the closure's input types.
+        && (forall i | 0 <= i < |vars| :: ValueTypeHeight(argvs[i]) < ValueTypeHeight(v))
+        && (forall i | 0 <= i < |vars| :: ValueTypeHeight(argvs'[i]) < ValueTypeHeight(v'))
```
Comment (cpitclaudel) [inline Source/DafnyCompilers/CompilerRewriter.dfy:496]: Let's add a todo here to mention the fact that these should come "for free" once we have type checks?

File: Source/DafnyCompilers/CompilerRewriter.dfy [hunk 18]
```diff
@@ -0,0 +1,2215 @@
...
+        && (forall i | 0 <= i < |vars| :: EqValue(argvs[i], argvs'[i])) ::
+        var res := InterpCallFunctionBody(v, fuel, argvs);
+        var res' := InterpCallFunctionBody(v', fuel, argvs');
+        // We can't use naked functions in recursive setting: this forces us to write the expanded
+        // match rather than using an auxiliary function like `EqPureInterpResult`.
```
Comment (cpitclaudel) [inline Source/DafnyCompilers/CompilerRewriter.dfy:501]: Can you clarify this part?

File: Source/DafnyCompilers/Interp.dfy [hunk 19]
```diff
@@ -93,13 +98,83 @@ module Interp {
...
+      case Set(st) =>
+        && HasEqValue(v)
+        && (forall x | x in st :: WellFormedEqValue(x))
+      case Closure(ctx, vars, body) =>
+        // TODO: is that enough?
+        && (forall x | x in ctx.Values :: WellFormedEqValue(x))
+    }
+  }
+
+  // TODO: rename to ValueHasEq
```
Comment (cpitclaudel) [inline Source/DafnyCompilers/Interp.dfy:140]: Can we make this a member function of `Value`?

File: Source/DafnyCompilers/Interp.dfy [hunk 20]
```diff
@@ -93,13 +98,83 @@ module Interp {
     }
   }
 
-  predicate method WellFormedValue1(v: V.T)  {
+  // TODO: rewrite as a shallow predicate applied through ``v.All``?
```
Comment (cpitclaudel) [inline Source/DafnyCompilers/Interp.dfy:101]: 👍 (but no need to do it now)

File: Source/DafnyCompilers/Interp.dfy [hunk 21]
```diff
@@ -93,13 +98,83 @@ module Interp {
...
+  // over values and actually *use* this relation to prove equivalence properties between expressions.
+  // 
+  // The difficult point is linked to closures: when we apply transformations to the code, we often
+  // apply them in a deep manner to the expressions (i.e., to all the subexpressions of an expression).
+  // The problem is that it can have an effect on the closure values generated through the execution
+  // by modifying their bodies, leading to discrepancies in the execution of the code (imagine the case
+  // where we use closures as keys inside of maps).
+  // The good news is that when those cases happen, we actually try to use an equality over values
+  // which don't have a decidable equality: we solve the problem by forcing some subvalues to have
+  // a decidable equality.
```
Comment (cpitclaudel) [inline Source/DafnyCompilers/Interp.dfy:113]:
```suggestion
  // which don't have decidable equality: we solve the problem by forcing some subvalues to have
  // decidable equality.
```

File: Source/DafnyCompilers/Interp.dfy [hunk 22]
```diff
@@ -93,13 +98,83 @@ module Interp {
...
+  predicate method WellFormedEqValue(v: V.T)
+  // This predicate gives the constrainst we need to be able to *define* our equivalence relation
+  // over values and actually *use* this relation to prove equivalence properties between expressions.
+  // 
+  // The difficult point is linked to closures: when we apply transformations to the code, we often
+  // apply them in a deep manner to the expressions (i.e., to all the subexpressions of an expression).
+  // The problem is that it can have an effect on the closure values generated through the execution
+  // by modifying their bodies, leading to discrepancies in the execution of the code (imagine the case
+  // where we use closures as keys inside of maps).
+  // The good news is that when those cases happen, we actually try to use an equality over values
```
Comment (cpitclaudel) [inline Source/DafnyCompilers/Interp.dfy:111]:
```suggestion

  // The good news is that when those cases happen, we actually try to use an equality over values 
```

File: Source/DafnyCompilers/Interp.dfy [hunk 23]
```diff
@@ -93,13 +98,83 @@ module Interp {
...
+        && (forall x | x in st :: WellFormedEqValue(x))
+      case Closure(ctx, vars, body) =>
+        // TODO: is that enough?
+        && (forall x | x in ctx.Values :: WellFormedEqValue(x))
+    }
+  }
+
+  // TODO: rename to ValueHasEq
+  predicate method HasEqValue(v: V.T)
+  // Return true if the value supports a decidale equality.
```
Comment (cpitclaudel) [inline Source/DafnyCompilers/Interp.dfy:142]:
```suggestion
  // Return true if the value supports decidable equality.
```

File: Source/DafnyCompilers/Interp.dfy [hunk 24]
```diff
@@ -93,13 +98,83 @@ module Interp {
...
+  //
+  // Note that this is a bit subtle for collections: any empty collection supports a decidable
+  // equality, but non-empty collections support a decidable equality only if their elements
+  // support one.
```
Comment (cpitclaudel) [inline Source/DafnyCompilers/Interp.dfy:146]: It's a bit surprising that decidable equality is a property of values, rather than of their types… but I guess we're doing it this way because we don't currently have types on values?

File: Source/DafnyCompilers/CompilerRewriter.dfy [hunk 25]
```diff
@@ -0,0 +1,2215 @@
...
+    }
+
+    predicate {:verify true} EqState(ctx: State, ctx': State)
+    {
+      GEqState(EqValue, ctx, ctx')
+    }
+
+    predicate {:verify true} EqCtx(ctx: Context, ctx': Context)
+      requires WellFormedContext(ctx)
+      requires WellFormedContext(ctx')
```
Comment (cpitclaudel) [inline Source/DafnyCompilers/CompilerRewriter.dfy:524]: Do you use non-wellformed contexts in this file?  If not, we could just create `type Context = c: Interp.Context | WellFormedContext(c)`

File: Source/DafnyCompilers/CompilerRewriter.dfy [hunk 26]
```diff
@@ -0,0 +1,2215 @@
...
+    }
+
+    // TODO: move
+    lemma {:verify true} EqInterp_Expr_EqState_Lem(e: Exprs.T, fuel: nat, ctx: State, ctx': State)
+      requires SupportsInterp(e)
+      requires EqState(ctx, ctx')
+      ensures EqInterpResultValue(InterpExpr(e, fuel, ctx), InterpExpr(e, fuel, ctx'))
+    // The proof should be similar to ``EqInterp_Expr_CanBeMapLifted_Lem`` (and actually
+    // simpler), but I'm not sure how to efficiently factorize the two.
+    {
```
Comment (cpitclaudel) [inline Source/DafnyCompilers/CompilerRewriter.dfy:560]: You can omit the body of a lemma instead of putting an assume false in it
(Although arguably this way is more explicit.)

File: Source/DafnyCompilers/CompilerRewriter.dfy [hunk 27]
```diff
@@ -0,0 +1,2215 @@
...
+      ensures EqValue(v, v)
+      decreases v, 1
+    {
+      match v {
+        case Bool(_) => {}
+        case Char(_) => {}
+        case Int(_) => {}
+        case Real(_) => {}
+        case BigOrdinal(_) => {}
+        case BitVector(_, _) => {}
```
Comment (cpitclaudel) [inline Source/DafnyCompilers/CompilerRewriter.dfy:574]:
```suggestion
        case Bool(_) =>
        case Char(_) =>
        case Int(_) =>
        case Real(_) =>
        case BigOrdinal(_) =>
        case BitVector(_, _) =>
```

Comment (cpitclaudel) [reply Source/DafnyCompilers/CompilerRewriter.dfy:574]: (Same thing below)

File: Source/DafnyCompilers/CompilerRewriter.dfy [hunk 28]
```diff
@@ -0,0 +1,2215 @@
...
+      var res := InterpUnaryOp(e, op, v);
+      var res' := InterpUnaryOp(e', op, v');
+
+      // We make a case disjunction on the final result so as to get
+      // information from the fact that the calls to ``Need`` succeeded.
+      // The Failure case is trivial.
+      if res.Success? {
+        match op {
+          case BVNot => {
+            assert v.BitVector?;
```
Comment (cpitclaudel) [inline Source/DafnyCompilers/CompilerRewriter.dfy:1524]: You don't need curly braces around the bodies of `case` branches

File: Source/DafnyCompilers/CompilerRewriter.dfy [hunk 29]
```diff
@@ -0,0 +1,2215 @@
...
+        assert EqPureInterpResultValue(res, res');
+      }
+    }
+
+    // TODO: we could split this lemma, whose proof is big (though straightforward),
+    // but it is a bit annoying to do...
+    // TODO: e and e' should be the same actually
+    lemma {:verify true}
+    EqInterp_Expr_BinaryOp_CanBeMapLifted_Lem(
+      e: Expr, e': Expr, bop: BinaryOp, v0: WV, v1: WV, v0': WV, v1': WV)
```
Comment (cpitclaudel) [inline Source/DafnyCompilers/CompilerRewriter.dfy:1567]:
```suggestion
      e: Expr, e': Expr, bop: BinaryOp, v0: WV, v1: WV, v0': WV, v1': WV
    )
```

File: Source/DafnyCompilers/CompilerRewriter.dfy [hunk 30]
```diff
@@ -0,0 +1,2215 @@
...
+      requires !bop.BV? && !bop.Datatypes?
+      requires EqValue(v0, v0')
+      requires EqValue(v1, v1')
+      ensures EqPureInterpResultValue(InterpBinaryOp(e, bop, v0, v1), InterpBinaryOp(e', bop, v0', v1')) {
```
Comment (cpitclaudel) [inline Source/DafnyCompilers/CompilerRewriter.dfy:1571]:
```suggestion
      ensures EqPureInterpResultValue(InterpBinaryOp(e, bop, v0, v1), InterpBinaryOp(e', bop, v0', v1'))
    {
```

File: Source/DafnyCompilers/CompilerRewriter.dfy [hunk 31]
```diff
@@ -0,0 +1,2215 @@
...
+      reveal InterpBinaryOp();
+      
+      var res := InterpBinaryOp(e, bop, v0, v1);
+      var res' := InterpBinaryOp(e', bop, v0', v1');
+
+      // Below: for the proofs about binary operations involving collections (Set, Map...),
+      // see the Set case, which gives the general strategy.
+      match bop {
```
Comment (cpitclaudel) [inline Source/DafnyCompilers/CompilerRewriter.dfy:1579]: I'd add a todo here to see if we can refactor this to avoid the explicit case disjunctions

File: Source/DafnyCompilers/Interp.dfy [hunk 32]
```diff
@@ -354,17 +477,20 @@ module Interp {
...
 
-  function method InterpBinaryOp(expr: Expr, bop: AST.BinaryOp, v0: WV, v1: WV)
+  function method {:opaque} InterpBinaryOp(expr: Expr, bop: AST.BinaryOp, v0: WV, v1: WV)
     : (r: PureInterpResult<WV>)
     requires !bop.BV? && !bop.Datatypes?
   {
     match bop
       case Numeric(op) => InterpBinaryNumeric(expr, op, v0, v1)
       case Logical(op) => InterpBinaryLogical(expr, op, v0, v1)
-      case Eq(op) => match op { // FIXME which types is this Eq applicable to (vs. the type-specific ones?)
```
Comment (cpitclaudel) [inline Source/DafnyCompilers/Interp.dfy:364]: Let's keep that comment

File: Source/DafnyCompilers/Interp.dfy [hunk 33]
```diff
@@ -521,63 +655,108 @@ module Interp {
...
+      case MultisetSelect() =>
+        :- Need(HasEqValue(v1), Invalid(expr));
+        :- Need(v0.Multiset?, Invalid(expr));
         Success(V.Int(v0.ms[v1]))
   }
 
   function method InterpBinarySequences(expr: Expr, op: BinaryOps.Sequences, v0: WV, v1: WV)
     : (r: PureInterpResult<WV>)
   {
+    // Rk.: sequences don't necessarily contain values with a decidable equality, we
```
Comment (cpitclaudel) [inline Source/DafnyCompilers/Interp.dfy:675]:
```suggestion
    // Rk.: sequences don't necessarily contain values with decidable equality, we
```

File: Source/DafnyCompilers/Interp.dfy [hunk 34]
```diff
@@ -521,63 +655,108 @@ module Interp {
...
+    // thus dynamically check that we have what we need depending on the operation
+    // we want to perform.
     match op
-      case SeqEq() => :- Need(v0.Seq? && v1.Seq?, Invalid(expr));
+      case SeqEq() =>
+        :- Need(v0.Seq? && v1.Seq?, Invalid(expr));
+        :- Need(HasEqValue(v0), Invalid(expr)); // We need a decidable equality
```
Comment (cpitclaudel) [inline Source/DafnyCompilers/Interp.dfy:681]:
```suggestion
        :- Need(HasEqValue(v0), Invalid(expr)); // We need decidable equality
```

File: Source/DafnyCompilers/Values.dfy [hunk 35]
```diff
@@ -74,11 +74,15 @@ module Values {
         case Closure(ctx, vars_, body_) => ctx.Values
     }
 
+    // This duplicates a bit Types.WellFormed().
```
Comment (cpitclaudel) [inline Source/DafnyCompilers/Values.dfy:77]:
```suggestion
    // This duplicates a bit ``Types.WellFormed()``.
```

**Review by cpitclaudel — CHANGES_REQUESTED** [review]
:+1:

**Review by cpitclaudel — APPROVED** [review]
Thanks for making all the changes!
